US07557112B2
A mixture of 1.16 g of 1-tert-butoxycarbonyl-4-[2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4-yl]piperazine and 10 ml of 4M HCl-dioxane solution was stirred for two days at room temperature. 10 ml of EtOAc was added to the reaction mixture. After the precipitate was filtered and washed with EtOAc, it was dried under reduced pressure to give 1.17 g of 2-(4-chloro-2,5-difluorophenyl)-4-piperazine-1-ylthieno[3,2-d]pyrimidine dihydrochloride.

reactant | 1-tert-butoxycarbonyl-4-[2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4-yl]piperazine | 1.16 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C2=C(N=C(N1)C1=C(C=C(C(=C1)F)Cl)F)C=CS2 | C21H21ClF2N4O2S
reactant | HCl dioxane | 4M, 10 ml | Cl.O1CCOCC1
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
product | 2-(4-chloro-2,5-difluorophenyl)-4-piperazine-1-ylthieno[3,2-d]pyrimidine dihydrochloride | 1.17 g | Cl.Cl.ClC1=CC(=C(C=C1F)C=1N=C(C2=C(N1)C=CS2)N2CCNCC2)F | InChI=1S/C16H13ClF2N4S.2ClH/c17-10-8-11(18)9(7-12(10)19)15-21-13-1-6-24-14(13)16(22-15)23-4-2-20-3-5-23;;/h1,6-8,20H,2-5H2;2*1H
